US04416884
A mixture of 3.2 g of 5,6-dichloro-1,2,3,4-tetrahydroquinaldine and 3.2 g of diethyl ethoxymethylenemalonate was allowed to react by heating at 160° C. for 30 minutes. Then 13 g of polyphosphoric acid prepared from 6.5 g of phosphorus pentoxide and 6.5 g of phosphoric acid was added to the mixture and the resulting mixture was allowed to react by heating at 140° to 150° C. for 1 hour. After completion of the reaction, the mixture was poured onto 100 g of ice, followed by rendering the mixture to pH 4 to 5 with a 40% aqueous sodium hydroxide solution to precipitate crystals. The crystals were collected by filtration, dried and mixed with 50 ml of a 10% aqueous sodium hydroxide solution. The mixture was allowed to react at 100° to 110° C. for 1 hour. After cooling, the reaction mixture was rendered acidic with concentrated hydrochloric acid to precipitate crystals. Recrystallization of the crystals thus-obtained from ethanol gave 2.3 g of 8,9-dichloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid having a melting point of 269° to 271° C.

reactant | 5,6-dichloro-1,2,3,4-tetrahydroquinaldine | 3.2 g | ClC1=C2CCC(NC2=CC=C1Cl)C | C10H11Cl2N
reactant | diethyl ethoxymethylenemalonate | 3.2 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | phosphorus pentoxide | 6.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | phosphoric acid | 6.5 g | P(O)(O)(O)=O | H3O4P
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 8,9-dichloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 2.3 g | ClC1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)Cl | C14H11Cl2NO3
